US09169254B2
(3S,4S)-3-Allyloxy-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester synthesized by the method described in the patent literature (DE4234330) (139 mg, 0.57 mmol) was dissolved in methylene chloride (2.4 ml). A 4 N solution of hydrochloric acid in dioxane (0.628 ml, 2.45 mmol) was added and the mixture was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure to give (3S,4S)-4-allyloxy-pyrrolidin-3-ol hydrochloride (105 mg). This was used in the next reaction without further purification.

reactant | (3S,4S)-3-Allyloxy-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)O)OCC=C | C12H21NO4
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 2.45 mmol, 0.628 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 2.4 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-4-allyloxy-pyrrolidin-3-ol hydrochloride | 105 mg | Cl.C(C=C)O[C@@H]1[C@H](CNC1)O | InChI=1S/C7H13NO2.ClH/c1-2-3-10-7-5-8-4-6(7)9;/h2,6-9H,1,3-5H2;1H/t6-,7-;/m0./s1
